US06803476B2
81.68 g (0.300 mol) methyl(pentafluorophenyl)dimethoxysilane, 109 mL (1.50 mol, 178.4 g) thionylchloride and 3.69 g (0.0319 mol) pyridinium hydrochloride are refluxed and stirred for 16 h. Excess of SOCl2 is evaporated and methyl(pentafluorophenyl)dichlorosilane isolated by vacuum-distillation.

reactant | methyl(pentafluorophenyl)dimethoxysilane | 0.300 mol, 81.68 g | C[Si](OC)(OC)C1=C(C(=C(C(=C1F)F)F)F)F | C9H9F5O2Si
reactant | thionylchloride | 1.50 mol, 109 mL, 178.4 g | S(=O)(Cl)Cl | Cl2OS
reactant | pyridinium hydrochloride | 0.0319 mol, 3.69 g | Cl.[NH+]1=CC=CC=C1
product | methyl(pentafluorophenyl)dichlorosilane | C[Si](Cl)(Cl)C1=C(C(=C(C(=C1F)F)F)F)F | C7H3Cl2F5Si
